2164-06-28 06:04:00 Physician Resident Progress Note
Chief Complaint: fever and hypotension
   24 Hour Events:
 BLOOD CULTURED - At [**2164-6-27**] 03:15 PM
   PICC
 PRESEP CATHETER - START [**2164-6-27**] 03:37 PM
 BLOOD CULTURED - At [**2164-6-27**] 04:00 PM
   Pre [**Month (only) **] cath
 EKG - At [**2164-6-27**] 04:15 PM
 URINE CULTURE - At [**2164-6-27**] 05:15 PM
   Bolused 4 liters NS in ER.  While on floor bolused 4 L NS in addition.
   CVP 6-8 and MAPs generally > 65.
   Complaining of pain at R IJ site.  No other complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-6-27**] 11:42 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-6-27**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-6-28**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 79 (69 - 86) bpm
   BP: 96/57(67) {76/47(54) - 114/80(85)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (1 - 8)mmHg
   Total In:
                                                                  6,268 mL
                                                                  1,057 mL
   PO:
   TF:
   IVF:
                                                                  2,268 mL
                                                                  1,057 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    890 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,668 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.35/34/91.[**Numeric Identifier 96**]/19/-5
   Physical Examination
   GEN: NAD, AOX 3
   HEENT: MM dry, OP clear
   CARD: RRR, no m/r/g
   PULM: CTA anteriorly and laterally
   ABD: soft, NT, ND, No masses or organomegaly
   BACK: deep sacral decub, stage 4, no pus, dressed, serosanguinous
   drainage
   EXT: WWP, no c/c/e
   Labs / Radiology
   270 K/uL
   8.3 g/dL
   101 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   112 mEq/L
   138 mEq/L
   25.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2164-6-27**]  04:02 PM
                             [**2164-6-27**]  04:56 PM
   WBC
   8.7
   Hct
   25.6
   Plt
   270
   Cr
   1.0
   TCO2
   20
   Glucose
   101
   Other labs: PT / PTT / INR:14.0/29.9/1.2, ALT / AST:39/41, Alk Phos / T
   Bili:70/0.4, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:161 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**6-27**]: wound, 2+ polys, negative GS
   Blood cultures and urine cultures pending
   U/A w/ 2 WBC
   Assessment and Plan
   65 M with paraplegia, chronic stage VI decubitus ulcer and
   osteomyelitis, recurrent UTI [**2-25**] to neurogenic bladder and chronic
   Foley placement who presents with fever and hypotension off antibiotics
   from nursing home.
   # Septic Shock. Hypotension responding to fluids (8 liters in total
   since arriving to hospital), now BPs are stable, CVP around [**7-1**].
   -bolus for CVP < 8
   -pressors to keep MAP > 65 if necessary, not needed as of yet
   -initial SvO2 was 82%, can defer rechecking for now
   -no source for cause of hypotension, given fever > 103 F likely
   infectious however U/A negative, blood cultures pending, CXR w/o
   pneumonia and wound looks extensive although does look clean.  In
   addition he has a R PICC line which was cultured here as well (initial
   cultures are peripheral ED cultures and subsequent are PICC cultures
   when arrived on floor)
   -since hypotension has resolved it is possibly related to pure
   dehydration if no infectious source can be found
   -vanc zosyn as he was planned to finish a six week course of these
   medications then be transitioned to an oral suppressive therapy
   regimen, although his osteo may be improving as ESR is 81 stable from 6
   wees ago and down in general and his CRP is down from 46 6 weeks ago to
   28 now
   -random cortisol 19
   # ARF. Pre renal azotemia.  Cr 1.5 up from 0.9. resolving with fluid
   boluses.  Likely pre-renal given very dry on exam.
   - Trend Cr
   - bolus IVF as above
   -urine sediment w/ 1 hyaline cast
   - hold NSAIDs
   -re dose vanc to 1 g q12 as renal failure has improved.
   # Leukocytosis. Appears to be dry and hemoconcentrated. WBC 10 from
   baseline 6. Now improving.  Normal diff, inflammatory markers improving
   since 6 weeks ago.
   - cultures as above
   - antx as above
   # Chronic Sacral Decubitus Ulcer/Osteo: Patient is paraplegic
   -stage 4 decubitus ulcer, followed by plastic surgery as outpatient
   -wound consult to  eval this a.m., wtd dressing changes until wound
   recs
   - continue Zinc, vit C
   # Anemia. Hct up to 30, baseline mid/high 20s. Follow daily hct.
   -hct diluted w/ fluids back to what seems like baseline
   -chronic, iron studies reveal high ferritin, low TIBC and low iron,
   likely anemia of chronic disease
   -send B12, folate and smear as well as reticulocyte count
   # Paraplegia.
   - s/p resection of coccyx and distal sacrum for osteomyelitis due to a
   sacral decub.
   -wound care and abx as above
   # Neurogenic Bladder. Change foley. Repeat UA is negative, f/u
   cultures.
   # Depression: continued venlafaxine
   # GI/FEN: can advance diet to regular this a.m., was NPO due to
   somnolence
   # Comm: patient and daughter [**Name (NI) 3020**]
   # Access: RIJ and PIV, PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2164-6-27**] 03:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2164-06-29 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2164-6-28**] 08:24 AM
 TRANSTHORACIC ECHO - At [**2164-6-28**] 10:00 AM
 PICC LINE - STOP [**2164-6-28**] 02:00 PM
 BLOOD CULTURED - At [**2164-6-29**] 02:54 AM
   Stable over the day. Dropped BP to 60s-70s around 2am. Totally asx. Got
   I.5L IVF bolus w/ response.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-6-28**] 07:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-6-29**] 12:06 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-6-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2164-6-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 76 (70 - 95) bpm
   BP: 112/66(78) {66/43(49) - 147/82(95)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (2 - 12)mmHg
   Total In:
                                                                  2,260 mL
                                                                  1,675 mL
   PO:
   TF:
   IVF:
                                                                  1,840 mL
                                                                  1,675 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    980 mL
   Urine:
                                                                  2,150 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    695 mL
   Respiratory support
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   7.8 g/dL
   91 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.5 mEq/L
   17 mg/dL
   105 mEq/L
   131 mEq/L
   23.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-6-27**]  04:02 PM
                             [**2164-6-27**]  04:56 PM
                             [**2164-6-28**]  05:26 AM
                             [**2164-6-29**]  02:35 AM
   WBC
   8.7
   7.0
   5.8
   Hct
   25.6
   25.6
   23.6
   Plt
   [**Telephone/Fax (3) 3040**]
   Cr
   1.0
   0.9
   0.9
   TCO2
   20
   Glucose
   101
   96
   91
   Other labs: PT / PTT / INR:14.0/29.9/1.2, ALT / AST:39/41, Alk Phos / T
   Bili:70/0.4, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   65 M with paraplegia, chronic stage VI decubitus ulcer and
   osteomyelitis, recurrent UTI [**2-25**] to neurogenic bladder and chronic
   Foley placement who presents with fever and hypotension off antibiotics
   from nursing home.
   # Septic Shock. Hypotension responding to fluids (8 liters in total
   since arriving to hospital), now BPs are stable, CVP around [**7-1**].
   -gram + cocci in clusters on blood cultures, unable to see if this is
   from PICC line
   -pull PICC as likely source
   -continue surveillance cultures
   -TTE to r/o endocarditis, if persistently + blood cultures or fevers
   will need TEE
   -bolus fluids for MAP > 65, UOP > 40cc / hr, currently > than 100cc/hr
   -vanc zosyn
 wait 48 hours to see if any additional + blood cultures
   then can d/c zosyn.  Continue Vancomycin.
   -osteo may be improving as ESR is 81 stable from 6 wees ago and down in
   general and his CRP is down from 46 6 weeks ago to 28 now
   -random cortisol 19
   # ARF. Pre renal azotemia.  Cr 1.5 up from 0.9. resolving with fluid
   boluses.  Likely pre-renal given very dry on exam.
   - Trend Cr
   - bolus IVF as above
   -urine sediment w/ 1 hyaline cast
   -re dose vanc to 1 g q12 as renal failure has improved.
   # Chronic Sacral Decubitus Ulcer/Osteo: Patient is paraplegic
   -stage 4 decubitus ulcer, followed by plastic surgery as outpatient
   -wound consult to  eval this a.m., wtd dressing changes until wound
   recs
   - continue Zinc, vit C
   # Anemia. Hct up to 30, baseline mid/high 20s. Follow daily hct.
   -hct diluted w/ fluids back to what seems like baseline
   -chronic, iron studies reveal high ferritin, low TIBC and low iron,
   likely anemia of chronic disease
   -send B12, folate and smear as well as reticulocyte count
   # Paraplegia.
   - s/p resection of coccyx and distal sacrum for osteomyelitis due to a
   sacral decub.
   -wound care and abx as above
   # Neurogenic Bladder. Change foley. Repeat UA is negative, f/u
   cultures.
   # Depression: continued venlafaxine
   # GI/FEN: can advance diet to regular this a.m., was NPO due to
   somnolence
   # Comm: patient and daughter [**Name (NI) 3020**]
   # Access: RIJ and PIV, PICC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2164-6-27**] 03:37 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-06-29 10:58:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2164-6-28**] 08:24 AM
 TRANSTHORACIC ECHO - At [**2164-6-28**] 10:00 AM
 PICC LINE - STOP [**2164-6-28**] 02:00 PM
 BLOOD CULTURED - At [**2164-6-29**] 02:54 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2164-6-28**] 07:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2164-6-29**] 08:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-6-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-6-29**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 78 (70 - 95) bpm
   BP: 95/65(73) {66/43(49) - 147/82(95)} mmHg
   RR: 15 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  2,260 mL
                                                                  1,809 mL
   PO:
   TF:
   IVF:
                                                                  1,840 mL
                                                                  1,809 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                  1,390 mL
   Urine:
                                                                  2,150 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -240 mL
                                                                    419 mL
   Respiratory support
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting, Unable to stand, Paraplegia
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Language barrier
   Labs / Radiology
   7.8 g/dL
   208 K/uL
   91 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.5 mEq/L
   17 mg/dL
   105 mEq/L
   131 mEq/L
   23.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2164-6-27**]  04:02 PM
                             [**2164-6-27**]  04:56 PM
                             [**2164-6-28**]  05:26 AM
                             [**2164-6-29**]  02:35 AM
   WBC
   8.7
   7.0
   5.8
   Hct
   25.6
   25.6
   23.6
   Plt
   [**Telephone/Fax (3) 3040**]
   Cr
   1.0
   0.9
   0.9
   TCO2
   20
   Glucose
   101
   96
   91
   Other labs: PT / PTT / INR:14.0/29.9/1.2, ALT / AST:39/41, Alk Phos / T
   Bili:70/0.4, Lactic Acid:0.8 mmol/L, Albumin:2.8 g/dL, LDH:161 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   Sepsis
   Hypotension
   Paraplegia
   Decubitus
   Indwelling Foley
   BP down overnight but urine output remained good. Likely sleep effect
   rather than ongoing sepsis. Still awaiting ID of bacteria in blood.
   Likely MRSA from PIC rather than Enterococcus but will continue
   Vancomycin for now.  Will need PIC in [**1-25**] days
   ICU Care
   Nutrition:
   Comments: eATING= FULL
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2164-6-27**] 03:37 PM
   Comments: d/c cvl - FOR pic NEXT WEEK
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes